US07449467B2
(1R,3S)-3-[(3R)-Tetrahydrofuran-3-yl]-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine Dihydrochloride
tert-Butyl [(1R,3S)-3-[(3R)-tetrahydrofuran-3-yl]-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate (260 mg, 0.51 mmol) was dissolved in a 2 M solution of of hydrogen chloride in ether (8 mL). After being stirred at room temperature overnight, the reaction mixture was concentrated under vacuum to provide the desired product (290 mg) as a light yellow solid. MS calculated for C20H27F3N4O2: (M+H) 413.2; found 413.0.

reactant | tert-Butyl [(1R,3S)-3-[(3R)-tetrahydrofuran-3-yl]-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 0.51 mmol, 260 mg | O1C[C@H](CC1)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C25H35F3N4O4
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 8 mL | CCOCC | C4H10O
product | (1R,3S)-3-[(3R)-Tetrahydrofuran-3-yl]-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine Dihydrochloride | 290 mg | Cl.Cl.O1C[C@H](CC1)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | InChI=1S/C20H27F3N4O2.2ClH/c21-20(22,23)14-2-5-25-17(11-14)26-6-8-27(9-7-26)18(28)19(4-1-16(24)12-19)15-3-10-29-13-15;;/h2,5,11,15-16H,1,3-4,6-10,12-13,24H2;2*1H/t15-,16+,19-;;/m0../s1
